### PR TITLE
[Merged by Bors] - chore(Data): add `Finset.exists_injOn_image_eq_of_surjOn`

### PR DESCRIPTION
**Pull request by chrisflav**
Prerequisite for #27508.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Over.lean
Comment (YaelDillies) [inline Mathlib/RingTheory/Ideal/Over.lean:1]: Looks like ring theory to me!

File: Mathlib/RingTheory/Ideal/Quotient/Operations.lean
Comment (YaelDillies) [inline Mathlib/RingTheory/Ideal/Quotient/Operations.lean:1]: Same here

**Review by YaelDillies — COMMENTED** [review]
Can you make this PR be about the existence of sections on finite sets?

File: Mathlib/RingTheory/Ideal/Over.lean
Comment (chrisflav) [reply Mathlib/RingTheory/Ideal/Over.lean:1]: I thought that is probably the type of ring theory you are happy to review. Removed.

**Comment by chrisflav** [comment]
Done.

File: Mathlib/Data/Set/Function.lean [hunk 1]
```diff
@@ -1067,6 +1067,19 @@ lemma BijOn.symm {g : β → α} (h : InvOn f g t s) (hf : BijOn f s t) : BijOn
...
+  choose x hmem heq using hfs
+  refine ⟨Set.range (fun a : t ↦ x a.2), ?_, ?_, ?_⟩
+  · rintro - ⟨a, ha, rfl⟩ - ⟨b, hb, rfl⟩ hab
+    simp [show a.1 = b.1 by simpa [heq] using hab]
+  · rintro y ⟨a, rfl⟩
+    exact hmem _
+  · ext a
+    refine ⟨?_, fun ha ↦ ⟨x ha, ⟨⟨a, ha⟩, rfl⟩, heq _⟩⟩
+    rintro ⟨a, ⟨i, rfl⟩, rfl⟩
+    simp [heq]
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Function.lean]: This looks golfable. Can you try grind or alike?

File: Mathlib/Data/Set/Finite/Basic.lean [hunk 2]
```diff
@@ -904,6 +904,12 @@ lemma exists_card_eq [Infinite α] : ∀ n : ℕ, ∃ s : Finset α, s.card = n
     obtain ⟨a, ha⟩ := s.exists_notMem
     exact ⟨insert a s, card_insert_of_notMem ha⟩
 
+lemma exists_injOn_image_eq_of_surjOn [DecidableEq β] {f : α → β} (s : Set α) (t : Finset β)
+    (hfs : s.SurjOn f t) : ∃ (u : Finset α), Set.InjOn f u ∧ (u : Set _) ⊆ s ∧ u.image f = t := by
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Finite/Basic.lean]:
```suggestion
    (hfs : s.SurjOn f t) : ∃ (u : Finset α), Set.InjOn f u ∧ u.toSet ⊆ s ∧ u.image f = t := by
```

File: Mathlib/Data/Set/Function.lean [hunk 3]
```diff
@@ -1067,6 +1067,19 @@ lemma BijOn.symm {g : β → α} (h : InvOn f g t s) (hf : BijOn f s t) : BijOn
 lemma bijOn_comm {g : β → α} (h : InvOn f g t s) : BijOn f s t ↔ BijOn g t s :=
   ⟨BijOn.symm h, BijOn.symm h.symm⟩
 
+lemma exists_injOn_image_eq_of_surjOn (hfs : s.SurjOn f t) :
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Function.lean]: I think this deserves a short docstring mentioning the word "section" or at least "preimage"

File: Mathlib/Data/Set/Function.lean [hunk 4]
```diff
@@ -1067,6 +1067,13 @@ lemma BijOn.symm {g : β → α} (h : InvOn f g t s) (hf : BijOn f s t) : BijOn
 lemma bijOn_comm {g : β → α} (h : InvOn f g t s) : BijOn f s t ↔ BijOn g t s :=
   ⟨BijOn.symm h, BijOn.symm h.symm⟩
 
+/-- If `t ⊆ f '' s`, there exists a preimage of `t` under `f` contained in `s` such that
+`f` restricted to `u` is injective. -/
+lemma exists_injOn_image_eq_of_surjOn (hfs : s.SurjOn f t) :
+    ∃ (u : Set α), u.InjOn f ∧ u ⊆ s ∧ f '' u = t := by
+  choose x hmem heq using hfs
+  exact ⟨Set.range (fun a : t ↦ x a.2), fun _ ⟨a, ha⟩ _ ⟨b, hb⟩ hab ↦ by grind, by grind, by aesop⟩
```
Comment (ocfnash) [inline Mathlib/Data/Set/Function.lean]: I slightly prefer:
```suggestion
lemma SurjOn.exists_subset_injOn_image_eq (hfs : s.SurjOn f t) :
  ∃ u ⊆ s, u.InjOn f ∧ f '' u = t := by
  choose x hmem heq using hfs
  exact ⟨Set.range (fun a : t ↦ x a.2), by grind, fun _ ⟨a, ha⟩ _ ⟨b, hb⟩ hab ↦ by grind, by aesop⟩
```

File: Mathlib/Data/Set/Finite/Basic.lean [hunk 5]
```diff
@@ -904,6 +904,13 @@ lemma exists_card_eq [Infinite α] : ∀ n : ℕ, ∃ s : Finset α, s.card = n
     obtain ⟨a, ha⟩ := s.exists_notMem
     exact ⟨insert a s, card_insert_of_notMem ha⟩
 
+/-- `Finset` version of `Set.exists_injOn_image_eq_of_surjOn`. -/
+lemma exists_injOn_image_eq_of_surjOn [DecidableEq β] {f : α → β} (s : Set α) (t : Finset β)
+    (hfs : s.SurjOn f t) : ∃ (u : Finset α), Set.InjOn f u ∧ ↑u ⊆ s ∧ u.image f = t := by
```
Comment (ocfnash) [inline Mathlib/Data/Set/Finite/Basic.lean]:
```suggestion
lemma exists_subset_injOn_image_eq_of_surjOn [DecidableEq β] {f : α → β}
    (s : Set α) (t : Finset β) (hfs : s.SurjOn f t) :
    ∃ u : Finset α, ↑u ⊆ s ∧ Set.InjOn f u ∧ u.image f = t := by
```

Comment (ocfnash) [reply Mathlib/Data/Set/Finite/Basic.lean]: I also think this lemma is better placed in `Data.Finset.Image`. If you can still easily prove it there, then please move it.

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Data/Set/Function.lean [hunk 6]
```diff
@@ -1069,10 +1069,10 @@ lemma bijOn_comm {g : β → α} (h : InvOn f g t s) : BijOn f s t ↔ BijOn g t
 
 /-- If `t ⊆ f '' s`, there exists a preimage of `t` under `f` contained in `s` such that
 `f` restricted to `u` is injective. -/
-lemma exists_injOn_image_eq_of_surjOn (hfs : s.SurjOn f t) :
-    ∃ (u : Set α), u.InjOn f ∧ u ⊆ s ∧ f '' u = t := by
+lemma SurjOn.exists_subset_injOn_image_eq (hfs : s.SurjOn f t) :
+  ∃ u ⊆ s, u.InjOn f ∧ f '' u = t := by
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Function.lean]:
```suggestion
    ∃ u ⊆ s, u.InjOn f ∧ f '' u = t := by
```

File: Mathlib/Data/Set/Finite/Basic.lean (hunk 5 above)
Comment (chrisflav) [reply Mathlib/Data/Set/Finite/Basic.lean]: I did not find an easy proof without `Finset.univ` or `Set.Finite.toFinset`, so I left it there.
